US06977263B2
3-(2H-Tetrazol-5-yl)-benzoic acid methyl ester (204 mg, 1 mmol) (prepared by the method of Tanaka et al, J. Med. Chem., 1998, 41(13), 2406) and 2-chlorobenzoyl chloride (175 mg, 1 mmol) were combined in anisole (10 mL) at room temperature and 2,4,6-collidine (121 mg, 1 mmol) in anisole (1 mL) was added. The reaction mixture was heated at 100° C. for 1 hour followed by 120° C. for 15 minutes, monitoring the evolution of gas by balloon [volume of gas evolved was measured by positive displacement of water, total =22 mL]. Cooled reaction mixture to room temperature, and concentrated to dryness in vacuo. The residue was subjected to flash column chromatography on silica with gradient dilution 5% to 40% ethyl acetate/heptane. 3-[5-(2-Chlorophenyl)-[1,3,4]oxadiazol-2-yl]-benzoic acid methyl ester was isolated as a colorless powder (229 mg, 73%). 1H NMR [CDCl3]: δ 8.79 (s, H); 8.36 (d, H); 8.25 (d, H); 8.14 (d, H); 7.72-7.57 (m, 2H); 7.57-7.41 (m, 2H); 4.00 (s, 3H). MS(Ion spray): 315 and 317 (M++1).

reactant | 3-(2H-Tetrazol-5-yl)-benzoic acid methyl ester | 1 mmol, 204 mg | COC(C1=CC(=CC=C1)C=1N=NNN1)=O | C9H8N4O2
reactant | 2-chlorobenzoyl chloride | 1 mmol, 175 mg | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 2,4,6-collidine | 1 mmol, 121 mg | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | water | O | H2O
solvent | anisole | 10 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
product | 3-[5-(2-Chlorophenyl)-[1,3,4]oxadiazol-2-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1OC(=NN1)C1=C(C=CC=C1)Cl)=O | C16H11ClN2O3
